US07317037B2
2-(3-Fluoro-2-nitro-phenyl)-malonic acid dimethyl ester (12 g, 44 mmol) in 200 mL 6N hydrochloric acid (6N, 200 mL) was heated under reflux for 4 hours. The mixture was cooled, diluted with 250 mL of water and extracted with diethyl ether, dried (MgSO4), and concentrated in vacu., Crystallization from hexane/ethylacetate (95/5), gave (3-fluoro-2-nitro-phenyl)-acetic acid (7.6 g, 54%) which was used without further examination.

reactant | 2-(3-Fluoro-2-nitro-phenyl)-malonic acid dimethyl ester | 44 mmol, 12 g | COC(C(C(=O)OC)C1=C(C(=CC=C1)F)[N+](=O)[O-])=O | C11H10FNO6
solvent | hydrochloric acid | 6N, 200 mL | Cl | ClH
solvent | water | 250 mL | O | H2O
product | (3-fluoro-2-nitro-phenyl)-acetic acid | 7.6 g, 54% | FC=1C(=C(C=CC1)CC(=O)O)[N+](=O)[O-] | C8H6FNO4
